US06716863B2
(ii) 3-{1-[3-(3-hydroxyphenyl)propyl]-1H-imidazol-2-yl)-1,2-propanediol
Using 3-(1-[3-(3-benzyloxyphenyl)propyl]-1H-imidazol-2-yl}-1,2-propanediol (1.30 g) and 10% palladium carbon (0.195 g), the same reaction as Reference Example 11-(v) was carried out to yield the titled compound (0.979 g) as a colorless oily substance.

reactant | 3-(1-[3-(3-benzyloxyphenyl)propyl]-1H-imidazol-2-yl}-1,2-propanediol | 1.30 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCN1C(=NC=C1)CC(CO)O | C22H26N2O3
catalyst | palladium carbon | 0.195 g | [C].[Pd]
product | 3-{1-[3-(3-hydroxyphenyl)propyl]-1H-imidazol-2-yl)-1,2-propanediol | 0.979 g | OC=1C=C(C=CC1)CCCN1C(=NC=C1)CC(CO)O | C15H20N2O3
